US07459577B2
The resulting organic layer containing di-sec-butyl methylmethoxysilane was treated with 35% hydrochloric acid in the same manner as in Example 15(d). The organic layer was separated from the aqueous layer and was subjected to a fractional distillation under a reduced pressure to afford 32 g of di-sec-butylmethylchlorosilane as a fraction boiling at 78° C.-81° C./16 mm Hg (yield; 81%).

reactant | di-sec-butyl methylmethoxysilane | C(C)(CC)[Si](OC)(C)C(C)CC | C10H24OSi
reactant | hydrochloric acid | Cl | ClH
product | di-sec-butylmethylchlorosilane | 32 g, yield; 81% | C(C)(CC)[Si](Cl)(C)C(C)CC | C9H21ClSi
